US04713478
Dimethyl 2-Vinylcyclopropane-1,1-dicarboxylate
Sodium methoxide (108.02 g, 2.0 moles) 25% in MeOH was added in 40 minutes to dimethyl malonate (132.12 g, 1.0 mole), 1,4-dichlorobutene-2 (150 g, 1.2 moles), and 50 mL MeOH and allowed to stir at ambient temperature overnight. The mixture was vacuum filtered, neutralized with concentrated HCl to 3.5-4.0 pH, and filtered a second time. Solvent was then removed under vacuum to give 194.8 g of light yellow crude product. Vacuum distillation (55°/0.25 mm-72°/0.4 mm) with 0.064 g of hydroquinone added gave 142.5 g of product (77.4% yield) and 30.4 g of residue.

reactant | Sodium methoxide | 2.0 moles, 108.02 g | C[O-].[Na+]
reactant | dimethyl malonate | 1.0 mole, 132.12 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 1,4-dichlorobutene-2 | 1.2 moles, 150 g | C(/C=C/CCl)Cl | C4H6Cl2
solvent | MeOH | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | Dimethyl 2-Vinylcyclopropane-1,1-dicarboxylate | 194.8 g | C(=C)C1C(C1)(C(=O)OC)C(=O)OC | C9H12O4
